US08008298B2
3-Bromo-phenylamine (10.0 g, 58.1 mmol) and 3,3-dimethyl-dihydro-furan-2,5-dione (8.2 g, 63.9 mmol) were suspended in 387 ml of methylene chloride and heated at 50° C. for 3 hours. Carbonyldiimidazole (11.3 g, 69.7 mmol) was added in portions and the reaction was heated at 50° C. overnight. Most of the solvent was removed on a rotary evaporator. The solid residue was triturated with 20% ethyl acetate in hexanes, filtered and dried to give 15 g (92%) of somewhat impure 1-(3-bromo-phenyl)-3,3-dimethyl-pyrrolidine-2,5-dione which was used without further purification.

reactant | 3-Bromo-phenylamine | 58.1 mmol, 10.0 g | BrC=1C=C(C=CC1)N | C6H6BrN
reactant | 3,3-dimethyl-dihydro-furan-2,5-dione | 63.9 mmol, 8.2 g | CC1(C(OC(C1)=O)=O)C | C6H8O3
reactant | Carbonyldiimidazole | 69.7 mmol, 11.3 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | methylene chloride | 387 ml | C(Cl)Cl | CH2Cl2
product | 1-(3-bromo-phenyl)-3,3-dimethyl-pyrrolidine-2,5-dione | BrC=1C=C(C=CC1)N1C(C(CC1=O)(C)C)=O | C12H12BrNO2
